US04281204
2-isopropylidene-6-ethyl-10-methylspiro[4.5]dec-6-en-8-one
A Grignard solution was prepared from magnesium (1.17 g, 0.048 g-atom) and ethyl bromide (5.2 g, 0.048 mol) in anhydrous ether (50 mL) under nitrogen. 2-Isopropylidene-8-isopropoxy-10-methylspiro[4.5]dec-7-en-6-one (4 g, 0.015 mol), prepared according to Example 2, in anhydrous ether (20 mL) was added dropwise at room temperature and the mixture then heated at reflux for 4 hours. The solution was cautiously added to 2 N hydrochloric acid (200 mL) and stirred for 1 hour at room temperature. The mixture was extracted with ether and the ether extracts washed with saturated sodium bicarbonate, brine, and dried (Na2SO4). Kugelrohr distillation afforded

reactant | magnesium | 1.17 g | [Mg] | Mg
reactant | ethyl bromide | 0.048 mol, 5.2 g | C(C)Br | C2H5Br
reactant | 2-Isopropylidene-8-isopropoxy-10-methylspiro[4.5]dec-7-en-6-one | 0.015 mol, 4 g | C(C)(C)=C1CC2(CC1)C(C=C(CC2C)OC(C)C)=O | C17H26O2
reactant | hydrochloric acid | 2 N, 200 mL | Cl | ClH
solvent | ether | 50 mL | CCOCC | C4H10O
solvent | ether | 20 mL | CCOCC | C4H10O
product | 2-isopropylidene-6-ethyl-10-methylspiro[4.5]dec-6-en-8-one | C(C)(C)=C1CC2(CC1)C(=CC(CC2C)=O)CC | C16H24O
